Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
"I tried to end my life."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult 
note:
.
___ is a ___ year old man with no prior PPH who 
presents after jumping into ___ in a suicide attempt.  
Patient reports long-standing history of episodic depression.  
For the last several weeks he reports worsening depression, low 
energy, insomnia (sleeping 2 hours per night), social anxiety 
with panic attacks, and increasing alcohol use.  Yesterday 
evening he was feeling depressed and had panic attack. He walked 
down to docs ___ to calm down.  Patient then 
decided to attempt suicide by getting into the ___.  Patient 
wrote a note to family and friends and notebook.  Patient 
floated in ___ for 20 minutes before deciding to climb out and 
lay on grass.  Patient report, "something change in me and I did 
not want to die". He then called ___, afraid that if he walked 
home he may attempt suicide again.  Reports feeling safe in the 
hospital and glad he did not die.
.
Reports feelings of depression and suicidal thoughts since high 
school.  Was trialed on Zoloft and Cymbalta in high school with 
little effect.  Patient states he is usually a social person, 
"life of the party "friends have noticed he is more down for 
last several weeks.  He reports academic stress, denies other 
acute stressors.  Denies auditory visual hallucinations, denies 
homicidal ideation.
.
Has outpatient psychiatrist, Dr. ___ whom he sees 
monthly but has been out recently for medical illness.  Patient 
does not have a therapist, but thinks this would be helpful.  
Patient states family and friends are supportive, but do not 
know extent of his depression.
.
Psychiatric ROS:
Depression -endorses depressed mood, poor sleep, poor appetite, 
suicidal thoughts
Psychosis -denies paranoia denies auditory visual hallucinations
Mania-endorses poor concentration, difficulty sleeping, racing 
thoughts
Anxiety -endorses panic attacks
.
Collateral: 
BU counseling- Dr. ___ ___
Reports patient sought counseling services at the end of his 
freshmen year for depressed mood and anxiety with new student 
transition as well as ADHD. No other counseling visits or 
information on patient."
.
In the ED, patient was in good behavioral control without 
requiring physical or chemical restraints.
.
On admission interview, patient reports several weeks of 
worsening depression, low energy, insomnia (sleeping 2 hours per 
night), extreme anxiety, weekly panic attacks, and increasing 
alcohol use in the context of ongoing relational stressors and 
school stressors. The patient reports that at the beginning of 
the semester he was doing well, but then as academic pressure 
increases, his anxiety increases, which leads to him 
experiencing extreme insomnia. He reports that he feels his mind 
is constantly racing and filling him with a sense of anxiety and 
worry. He reports his thoughts tumble from one thoughts to the 
next often leading him to catastrophize any possible scenario he 
ponders. He says that eventually his lack of sleep will lead him 
to feel depressed with the above stated symptoms. He then states 
that his insomnia has lead to his increased alcohol use in 
conjunction with Seroquel in order to somehow fall asleep. He 
states that his internal state of feeling overwhelmed and stuck 
is what ultimately lead to him impulsively jumping in the ___ 
with the intent to end his life. He reports that he has almost 
daily passive SI over past month, and he reports having 
rehearsed suicide ___ times over past several years, but the 
incident with the ___ was the first time he ever acted with an 
intent to end his life. He reports ongoing passive SI at this 
time, but denies having any intent or plan while on the unit. He 
reports feeling safe on the unit, and states he will reach out 
to staff should he start to feel unsafe. He denies any intent to 
harm others or AVH.
.
REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: as above
---Anxiety: Denies symptoms such as avoidance or phobias.
---Mania: Denies symptoms of mania such as distractibility, 
grandiosity, increased activity, decreased need for sleep, or
talkativeness/pressured speech.  
---Psychosis: Denies symptoms of psychosis such as auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.
-General: Reports mild headache. Denies fatigue, fever, chills,
nightsweats, focal numbness, focal weakness, changes in vision,
changes in hearing, heat intolerance, cold intolerance, 
polyuria,
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea,
vomiting, diarrhea, constipation, melena, dysuria, increased
urinary frequency, rash, skin changes, joint pain, muscle pain,
edema, bruising, bleeding.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Prior diagnoses: ADHD, depression
-Hospitalizations: none
-Psychiatrist: Psychiatrist Dr. ___ in ___
-Therapist: none
-Medication trials: Adderall, Seroquel, tried Zoloft and
Cymbalta in high school for depression with little effect
-___ trials: none
-Suicide attempts: none prior to current presentation
-Self-injurious behavior: none
-Harm to others: denies
-Access to weapons: denies
.
PAST MEDICAL HISTORY:
Denies
Denies history of head trauma, seizure.
 
Social History:
-Born/Raised: father was in ___, so moved a lot growing up.
Consider his family's current location in ___ to be his home
(where he did his HS education)
-Relationship status/Children: single
-Primary Supports: He reports parents are supportive
-Housing: lives in apartment with 3 roommates 
-Education: ___ at ___ studying health
sciences
-Employment/Income: EMT
.
SUBSTANCE USE HISTORY:
-Tobacco: 5 cigarettes daily
-Alcohol: Endorses drinking ___ shots of whiskey to fall asleep
___ nights per week in addition to social drinking on the
weekends. Endorses blackouts.  Denies withdrawal symptoms denies
seizures
-Marijuana: Endorses marijuana use several times a week
-Other Drugs: Denies
 
Family History:
Mom-depression, anxiety
Dad-alcohol use disorder
Relatives on mom's side-bipolar disorder
No known suicide attempts or psychiatric hospitalizations
 
Physical Exam:
VITAL SIGNS:
___ 1224 Temp: 98.3 PO BP: 129/87 HR: 92 RR: 16 O2 sat: 
100%

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "What someone else has might appear better, but 
it
isn't."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed,
wearing hospital gown, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "calm"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: some intermittent passive SI without intent or plan,
denies violent ideations 
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Poor

 
Pertinent Results:
___ 04:05PM   ALT(SGPT)-13 AST(SGOT)-18 ALK PHOS-89 TOT 
BILI-0.6
___ 04:05PM   LIPASE-16
___ 04:05PM   CALCIUM-9.7 PHOSPHATE-4.3 MAGNESIUM-2.0 
CHOLEST-154
___ 04:05PM   %HbA1c-5.1 eAG-100
___ 04:05PM   TRIGLYCER-56 HDL CHOL-72 CHOL/HDL-2.1 
LDL(CALC)-71
___ 04:05PM   TSH-2.0
___ 09:45AM URINE  HOURS-RANDOM
___ 09:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 09:45AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:51AM   GLUCOSE-109* UREA N-10 CREAT-0.8 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-22 ANION GAP-19*
___ 05:51AM   estGFR-Using this
___ 05:51AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 05:51AM   WBC-6.6 RBC-5.27 HGB-15.8 HCT-47.9 MCV-91 
MCH-30.0 MCHC-33.0 RDW-12.5 RDWSD-41.1
___ 05:51AM   NEUTS-63.1 ___ MONOS-9.0 EOS-0.9* 
BASOS-1.1* IM ___ AbsNeut-4.15 AbsLymp-1.63 AbsMono-0.59 
AbsEos-0.06 AbsBaso-0.07
___ 05:51AM   PLT COUNT-___rief Hospital Course:
___ is a ___ year old man with reported PPH of ADHD and 
depression who presents after jumping into ___ in a 
suicide attempt.
.
On admission, patient reported several weeks of worsening 
depression, low energy, insomnia (sleeping 2 hours per night), 
extreme anxiety, weekly panic attacks, and increasing alcohol 
use in the context of ongoing relational stressors and school
stressors. The patient reported that at the beginning of the 
semester he was doing well, but then as academic pressure 
increased, his anxiety increased, which led to him experiencing 
extreme insomnia. He reports that he felt his mind was 
constantly
racing and filling him with a sense of anxiety and worry. He 
reported his thoughts tumbled from one thoughts to the next 
often leading him to catastrophize any possible scenario he 
ponders. He said that eventually his lack of sleep led him to 
feel depressed with the above stated symptoms. He then stated 
that his insomnia led to his increased alcohol use in 
conjunction with Seroquel in order to somehow fall asleep. He 
stated that his internal state of feeling overwhelmed and stuck 
is what
ultimately led to him impulsively jump in the ___ with the 
intent to end his life. He reported that he had almost daily 
passive SI over the month prior to admission, and he reported 
having rehearsed suicide ___ times over past several years, but 
the incident with the ___ was the first time he ever acted 
with an intent to end his life. He reported ongoing passive SI 
at time of admission, but denied having any intent or plan while 
on the unit. He reported feeling safe on the unit, and states he 
will reach out to staff should he start to feel unsafe. He 
denies any intent to harm others or AVH.
.
On interview, he was cooperative and open. MSE notable for 
linear goal directed thought process, passive SI, absence of 
violent ideation or hallucinations. At the time of admission, 
given the patient's depressed mood and recent SI and suicide 
attempt, as well as his poor insight and judgment related to his 
mental health patient met ___ criteria for inpatient 
admission. 
As such, inpatient psychiatric admission was  indicated for 
acute stabilization, diagnostic clarification, 
psychopharmacologic adjustments/management as indicated,  
psychotherapeutic interventions, coordination with outpatient 
providers, and further aftercare management.
.
1. LEGAL & SAFETY:  
On admission, signed a conditional voluntary agreement and was 
admitted on a Section 10 and 11, and that legal status remained 
in place throughout admission. Mr. ___ was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted. He remained 
in good behavioral control without ever requiring chemical or 
physical restraint.
.
2. PSYCHIATRIC:
#)Major Depressive Disorder, recurrent, severe, without 
psychotic features
.
Given patient's history of racing thoughts and insomnia, and 
after discussing the risks, benefits, and side effects, a small 
dose of Zyprexa 2.5 mg QHS was initiated for mood stabilization. 
This medication was overall poorly tolerated (caused excessive 
daytime grogginess), even despite cutting dose down to 1.25 mg 
QHS. 
The patient found this dose to be helpful for both racing 
thoughts and insomnia, but was ultimately switched to 
Risperidone 0.5 mg QHS. The patient found this medication to 
also be helpful for racing thoughts, insomnia, and mood 
stability, and it was much more well-tolerated. After discussing 
the risks, benefits, and side effects, the patient was started 
on a low dose of Sertraline 25 mg daily. This medication was 
started to help the patient with his depressed mood, and he 
found it to be helpful for this. This medication was 
well-tolerated without any significant side effects. 
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder
.
Patient was monitored for signs and symptoms of alcohol 
withdrawal, and no signs of such were noted. Patient did not 
require any chemical assistance for alcohol withdrawal. Patient 
was provided alcohol cessation counseling and encouraged to 
maintain sobriety on discharge. 
. 
#) Cannabis Use Disorder
Patient was also provided cannabis cessation counseling and 
encouraged to maintain sobriety on discharge. Patient was 
provided education regarding the deleterious affects of 
substance use in mental illness
.
#) Tobacco use
Patient was counseled regarding smoking cessation, provided 
nicotine replacement therapy on ___, and provided with follow yup 
for ongoing smoking cessation therapy. 
.
4. MEDICAL
No active medical problems 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit. The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often attended 
these groups. Mr. ___ was visible on the milieu and 
appropriately interacted with staff and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ did have an outpatient psychiatrist while admitted on 
Deac 4, but his outpatient psychiatrist was on medical leave at 
time of admission and thus was unable to be contacted. Mr. ___ 
was referred to ___ Counseling for ongoing therapy and 
medication management. We also encouraged the patient and his 
family to reach out sooner than the scheduled appointment to try 
to see a psychiatric provider ___ 2 weeks of discharge. An 
attempt was made to provide the patient with a list of 
psychoanalytic therapists within his home area, but according to 
___ Psychoanalytic Association's official website, there 
are no psychoanalysts within a 500 mile radius of the patient's 
___ in ___. 
.
Mr. ___ gave verbal and written permission for the team to 
contact his family members, who were also given an update on Mr. 
___ progress while admitted and discharge plan. Mr. ___ 
father came to the unit several times throughout the course for 
family meetings regarding ongoing treatment and medications. He 
was supportive and understanding.
.
6. INFORMED CONSENT: 
Medication: Sertraline
---Intended effects/Benefits: treatment of depressed mood, 
impaired concentration, and anxiety
---Adverse effects/Risks: Nausea, sedation, insomnia, sexual 
dysfunction, increased BP, mania induction, increase in SI
Medication: Risperidone
---Intended effects/Benefits: mood stabilization, treatment of 
depression, anxiety
---Adverse effects/Risks: Drowsiness, nausea, akathisia, EPS, 
tremor, TD, QTc prolongation, and metabolic syndrome 
Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above). 
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment. Mr. ___ understood the above and consented to 
begin the medication.
.
7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself. Mr. ___ static risk 
factors noted at that time include history of suicide attempt, 
history of substance abuse, family history of mental 
illness/substance use disorder, male gender, Caucasian 
ethnicity, adolescent age, single relationship status, 
homosexual sexual orientation
.  
The modifiable risk factors identified were as such: suicidal 
ideation without
intent/plan, impulsiveness, active substance use disorder, 
poorly controlled mental illness, lack of engagement with 
outpatient treatment, hopelessness, severe anxiety/panic 
attacks, insomnia. These modifiable risk factors were addressed 
with acute stabilization in a safe environment on a locked 
inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment.  Mr. ___ is being discharged with 
many protective factors, including sense of responsibility to 
family, employment, help-seeking behavior, future-oriented 
viewpoint, strong social supports, medication compliance, 
reality-testing ability; these are sufficient to mitigate risk 
at this time.
Patient demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning in the event that 
suicide or thoughts of self-harm returned (e.g. patient would 
call family, call ___, or present to the emergency room). 
Overall, based on the totality of our assessment at this time, 
Mr. ___ is not at an acutely elevated risk of harm to self nor 
danger to others at the time of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 25 mg PO QHS 
2. Amphetamine-Dextroamphetamine XR 40 mg PO DAILY 
3. Amphetamine-Dextroamphetamine 10 mg PO NOON 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
2.  RisperiDONE 0.5 mg PO QHS 
3.  Sertraline 25 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe, without psychotic 
features 
Anxiety nos
Alcohol Use Disorder
Cannabis Use Disorder

 
Discharge Condition:
VS 98.0 PO; BP 121/77; HR 102; RR 17; Oxygen sat 98% 
Activity Status: Ambulatory - Independent.
.
Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed,
wearing casual clothing and cap, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Hopeful"
-Affect: Mood-congruent, full range, bright, appropriate to
situation
-Speech: normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: denies SI, denies violent ideations 
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Fair
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___